US06864259B2
1-(1-Benzylpyrrolidin-3-yl)ethanol
To a 5° C. solution of 3-acetyl-1-benzylpyrrolidine (1 g, 4.9 mmol [L. E. Overman, J. Am. Chem. Soc. 1983, 105, 6622]) in methanol (10 mL) was added portionwise sodium borohydride (0.37 g, 9.8 mmol). After stirring at room temperature for 17 hours, the mixture was concentrated, diluted with ethyl acetate, washed with water, brine, dried with sodium sulfate and concentrated to afford the title compound (0.75 g). MSCI: m/z=206 (MH+).

reactant | 3-acetyl-1-benzylpyrrolidine | 4.9 mmol, 1 g | C(C)(=O)C1CN(CC1)CC1=CC=CC=C1 | C13H17NO
reactant | sodium borohydride | 9.8 mmol, 0.37 g | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-(1-Benzylpyrrolidin-3-yl)ethanol | 0.75 g | C(C1=CC=CC=C1)N1CC(CC1)C(C)O | C13H19NO
